US04703046
Conc. hydrochloric acid (1.5 ml.) was added to a solution of 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer), (1.2 g.) in methanol (30 ml.) and stirred at room temperature for 7 hrs. The reaction mixture was evaporated in vacuo. To the residue was added ethyl acetate and water was removed by evaporation. The residue was pulverized with ethyl acetate and the precipitates were collected by filtration, washed with ethyl acetate and diethyl ether successively and then dried to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 1.0 g.).

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)=NOC)Br | C18H16BrN7O6S4
solvent | methanol | 30 ml | CO | CH4O
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-methyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid hydrochloride | 1.0 g | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)=NOC)Br | InChI=1S/C17H16BrN7O5S4.ClH/c1-5-22-23-17(33-5)32-4-6-3-31-14-9(13(27)25(14)10(6)15(28)29)20-12(26)8(24-30-2)7-11(18)34-16(19)21-7;/h9,14H,3-4H2,1-2H3,(H2,19,21)(H,20,26)(H,28,29);1H/t9?,14-;/m1./s1
